* Cascaded passive RC ladder -- many stages of small conductance (MOhm/pF)
* chained together. Regression fixture for automatic det(A) row scaling:
* each stage's admittance is small enough that an N-stage system like this
* underflows float32's denormal floor in det(A) without row scaling (see
* sym_algebra.jai's Magnitude_Check / scratch/STABILITY_PLAN.md).

V1 vi 0 PULSE(-1 1 0 20m 1u 1u 20m)
R1 vi n1 1MEG
C1 n1 0 10p IC=0
R2 n1 n2 1MEG
C2 n2 0 10p IC=0
R3 n2 n3 1MEG
C3 n3 0 10p IC=0
R4 n3 n4 1MEG
C4 n4 0 10p IC=0
R5 n4 n5 1MEG
C5 n5 0 10p IC=0
R6 n5 n6 1MEG
C6 n6 0 10p IC=0
R7 n6 n7 1MEG
C7 n7 0 10p IC=0
R8 n7 n8 1MEG
C8 n8 0 10p IC=0
R9 n8 n9 1MEG
C9 n9 0 10p IC=0
R10 n9 vo 1MEG
C10 vo 0 10p IC=0

.tran 0 80m 0 20.0u
.wav "vin.wav" 32 48k V(vi)
.wav "vout.wav" 32 48k V(vo)
.options plotwinsize=0
.backanno
.end
